US09283555B2
N1-(2,6-diisopropylphenyl)benzamidine (Amidine II)
Procedure as described for Amidine I using the following amounts: 8.50 mL of 2,6-diisopropylaniline (45.0 mmol); 23.5 mL of 2.0 M butyllithium (47.0 mmol); 4.70 mL of benzonitrile (46.0 mmol). Filtration of the final pentane solution yielded 6.31 g (50%) of white solid. 1H NMR (400 MHz, CDCl3): 7.92 (d, 2H), 7.48 (m, 3H), 7.17 (d, 2H), 7.09 (t, 1 H), 4.59 (s, 2H), 3.06 (septet, 2H), 1.20 (d, 12H).

reactant | 2,6-diisopropylaniline | 45.0 mmol, 8.50 mL | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | butyllithium | 47.0 mmol, 2.0 M, 23.5 mL | C(CCC)[Li]
reactant | benzonitrile | 46.0 mmol, 4.70 mL | C(C1=CC=CC=C1)#N | C7H5N
product | N1-(2,6-diisopropylphenyl)benzamidine | 6.31 g, 50% | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(C1=CC=CC=C1)=N | C19H24N2
